US08735406B2
Process of 2-(3-hydroxyphenyl)-9-methyl-7-(pyrrolidin-1-ylcarbonyl)-7,9-dihydro-8H-purine-8-one
To a solution of 2-(3-benzyloxyphenyl)-9-methyl-7-(pyrrolidin-1-ylcarbonyl)-7,9-dihydro-8H-purine-8-one <the compound of Example 202> (30 mg) in methanol (10 ml) was added 10% palladium on carbon (3 mg) and the mixture was stirred for 4 hours at room temperature under hydrogen atmosphere. After removing the catalyst from the reaction mixture, the solvent was evaporated under reduced pressure, and the residue was dried to give the title compound 24 mg.

reactant | 2-(3-benzyloxyphenyl)-9-methyl-7-(pyrrolidin-1-ylcarbonyl)-7,9-dihydro-8H-purine-8-one | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=NC=C2N(C(N(C2=N1)C)=O)C(=O)N1CCCC1 | C24H23N5O3
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium on carbon | 3 mg | [Pd] | Pd
product | 2-(3-hydroxyphenyl)-9-methyl-7-(pyrrolidin-1-ylcarbonyl)-7,9-dihydro-8H-purine-8-one | 24 mg | OC=1C=C(C=CC1)C1=NC=C2N(C(N(C2=N1)C)=O)C(=O)N1CCCC1 | C17H17N5O3
